US09376436B2
To a solution of tert-butyl N-(5,5-dimethyl-2-oxo-pyrrolidin-3-yl)carbamate (which may be prepared as described in Description 28) (1307 mg, 5.73 mmol) in DCM (5 mL) was added 4 M HCl in dioxane (2.86 mL, 11.45 mmol). The solution (which immediately started to evolve gas) was stirred at room temperature over 1 hour. The reaction mixture heavily precipitated. It was diluted with ether (approximately 50 mL) and the solid filtered under vacuum, washed with ether and dried in the vacuum oven to afford 3-amino-5,5-dimethyl-pyrrolidin-2-one hydrochloride (917 mg, 5.5701 mmol, 97.3% yield) as a white solid;

reactant | tert-butyl N-(5,5-dimethyl-2-oxo-pyrrolidin-3-yl)carbamate | 5.73 mmol, 1307 mg | CC1(CC(C(N1)=O)NC(OC(C)(C)C)=O)C | C11H20N2O3
reactant | HCl | 4 M | Cl | ClH
reactant | dioxane | 11.45 mmol, 2.86 mL | O1CCOCC1 | C4H8O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-amino-5,5-dimethyl-pyrrolidin-2-one hydrochloride | 5.5701 mmol, 917 mg, 97.3% yield | Cl.NC1C(NC(C1)(C)C)=O | InChI=1S/C6H12N2O.ClH/c1-6(2)3-4(7)5(9)8-6;/h4H,3,7H2,1-2H3,(H,8,9);1H
